US08404684B2
Step 2) N-(5-{2-[(2-Dimethylamino-ethyl)-methyl-amino]-6-methyl-pyrimidin-4-yl}-4-methyl-thiazol-2-yl)-acetamide
N-[4-(2-Amino-4-methyl-thiazol-5-yl)-6-methyl-pyrimidin-2-yl]-N,N′,N′-trimethyl-ethane-1,2-diamine (0.020 g, 0.065 mmol) in acetic anhydride (1 ml) is heated at 60° C. for 2 hours. When cool, the solvent is removed in vacuo and the residue is partitioned between ethyl acetate (30 ml) and water (30 ml). The organic extract is removed, dried (MgSO4) and the solvent removed to give the titled compound.

reactant | N-[4-(2-Amino-4-methyl-thiazol-5-yl)-6-methyl-pyrimidin-2-yl]-N,N′,N′-trimethyl-ethane-1,2-diamine | 0.065 mmol, 0.020 g | NC=1SC(=C(N1)C)C1=NC(=NC(=C1)C)N(CCN(C)C)C | C14H22N6S
reactant | acetic anhydride | 1 ml | C(C)(=O)OC(C)=O | C4H6O3
product | N-(5-{2-[(2-Dimethylamino-ethyl)-methyl-amino]-6-methyl-pyrimidin-4-yl}-4-methyl-thiazol-2-yl)-acetamide | CN(CCN(C1=NC(=CC(=N1)C1=C(N=C(S1)NC(C)=O)C)C)C)C | C16H24N6OS
